Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left fistula swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male with history of Hep C, HTN, HLD, ESRD on dialysis 
maturing fistula in left arm, who presented from dialysis with 
hematoma over fistula.  
 He currently gets dialysis through right upper chest tunneled 
catheter. His fistula was placed on ___. He started regular 
exercise on ___ and since then has had progressive swelling 
over the fistula with tightness and moderate pain. Stopped 
dialysis hour and a half early today.  
 In the ED, initial vitals were: 97.8 70 124/75 18 99% RA  
 Exam notable for thrill and bruit over the left arm fistula. 
Minimal swelling overlying on the medial side. No overlying 
erythema. Pulses intact distally  
 Imaging notable for 7.9 cm complex multiloculated fluid 
collection adjacent to the left upper extremity fistula 
compatible with a hematoma.  
 Transplant surgery was consulted and recommended: no need for 
surgical intervention, admission to medicine  
 Patient was not given anything in the ED  
 On the floor, initial vitals were 97.8 134/77 77 18 96 RA.  
 ROS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
 Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
 ESRD on TThS HD  
 HCV, untreated - diagnosed recently
 HTN  
 HLD  
 
Social History:
___
Family History:
Mother passed away from cancer in her ___ but spent time HD  
Father alive, has diabetes
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 Vital Signs: 97.8 134/77 77 18 96 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. L fistula with bruit and palpable thrill  
 Neuro: CNII-XII grossly intact  
 Access: tunneled HD line, peripherals  

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 97.2 | 126/74 | 67 | 18 | 95%ra
GENERAL: Well-appearing, no acute distress, alert and oriented. 
HEENT: Sclera anicteric, MMM, oropharynx clear, no appreciable 
lymphadenopathy
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. Palpable left radial and ulnar pulses. 
LUNGS: Clear to auscultation bilaterally without wheezes, rales, 
rhonchi  
ABDOMEN: Soft, non-tender, non-distended. +Bowel sounds present. 
Small (<3cm) reducible umbilical hernia with superior 
semicircular scar. No organomegaly appreciated. No rebound or 
guarding.
GU: No foley, otherwise deferred 
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema. L fistula with bruit and palpable thrill. 
Incision healed, but soft 6-8cm hematoma. Otherwise warm with 
brisk capillary refill, normal motor exam. Upper extremity 
strength exam intact ___ shoulder abduction, elbow 
flexion/extension, wrist flexion/extension, grip strength). Some 
numbness to light palpation of medial distribution. 
NEURO: Face grossly symmetric, moving all limbs with purpose 
against gravity.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 09:00PM BLOOD WBC-3.4* RBC-3.51* Hgb-10.7* Hct-31.8* 
MCV-91 MCH-30.5 MCHC-33.6 RDW-13.5 RDWSD-43.3 Plt ___
___ 09:00PM BLOOD Glucose-84 UreaN-36* Creat-11.5* Na-139 
K-4.7 Cl-97 HCO3-29 AnGap-18

DISCHARGE LABS
===============
___ 07:10AM BLOOD WBC-3.7* RBC-3.58* Hgb-10.8* Hct-32.5* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-13.2 RDWSD-42.8 Plt ___
___ 07:10AM BLOOD ___ PTT-31.2 ___
___ 07:10AM BLOOD Glucose-79 UreaN-43* Creat-12.0* Na-137 
K-5.1 Cl-95* HCO3-26 AnGap-21*

IMAGING
========
___ ULTRASOUND UPPER EXTREMITY 
 FINDINGS:  Targeted grayscale and color Doppler ultrasound 
images were obtained of the patient's symptomatic site along the 
left upper extremity fistula.  There is a complex multiloculated 
fluid collection lateral to the left upper extremity fistula.  
This measures 7.9 x 1.7 x 5.8 cm.  This is approximately 0.5 cm 
deep to the skin.  No internal vascularity is noted within this 
collection on color Doppler imaging.  Normal color wall to wall 
flow is noted in the partially imaged portions of the left upper 
extremity fistula. 
 IMPRESSION: 7.9 cm complex multiloculated fluid collection 
adjacent to the left upper extremity fistula compatible with a 
hematoma.  
 
 
Brief Hospital Course:
___ y/o male with history of Hep C, HTN, HLD, ESRD ___ ?FSGS vs. 
HTN) on dialysis via tunneled right chest catheter with maturing 
fistula in left arm, who presented from dialysis with new 
swelling beneath fistula. 

#FISTULA HEMATOMA: Evaluated by transplant surgery in the ED. 
Imaging and exam consistent with hematoma. Felt to be no need 
for acute intervention. No flow through fluid collection. 
Currently dialyzed through tunneled line. Will be seen by Dr. 
___ on ___ when she rotates through ___ and there is a 
plan in the next few months for superficialization of the 
fistula, which is currently too deep to use in dialysis.  

#UMBILICAL HERNIA: Reportedly repaired at ___ in 
___ on ___. Patient reports intermittent discomfort 
from it, sometimes while stooling, sometimes while standing, 
sometimes at rest. The hernia is <3cm, reducible, and the 
patient tolerates POs well and is having normal bowel movements. 
No evidence of infection, incarceration. 

#ESRD on HD: Per prison nursing provider, records state this is 
from hypertension. TThS HD. Missed part of most recent HD 
session, no urgent need for HD while in-house given stable 
electrolytes per nephrology and he will resume usual schedule at 
discharge. Continued calcitriol, sevelamer. 

#HTN: Continued home amlodipine, atenolol.

#ANEMIA: Normocytic, likely secondary to ESRD. On epogen, IV 
iron as an outpatient  

#HCV: Untreated; reportedly a recent diagnosis due to prison 
tattoo. No known viral load or genotype available, but these 
should be assessed in the outpatient setting. 

# CODE: Full code presumed
# CONTACT: ___ ___

TRANSITIONAL ISSUES
===================
- FISTULA: Patient should be seen by Dr. ___ at ___ on ___ 
for follow up of fistula. Dr. ___. As previously 
established, the fistula will likely require a revision 
unrelated to the current hematoma, and this should be 
coordinated between Dr. ___ nephrology, and Mr. ___ 
general practitioner team.
- HERNIA: Umbilical hernia, reportedly repaired ___ at ___ 
___ in ___ with other procedures, causing patient some 
discomfort. Reducible, and patient still eating well and passing 
flatus. No intervention needed at this time. Recommend 
intermittent monitoring.   
- HCV: Consider viral load and genotyping in outpatient setting.
- HYPERTENSION: Consider switch to labetalol from atenolol as 
the latter is renally cleared.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Calcitriol 0.25 mcg PO DAILY 
5. Ferric Gluconate 125 mg IV 1X/WEEK (WE) 
6. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
7. Nephro-Vite (B complex-vitamin C-folic acid) 0.8 mg oral 
DAILY 
8. Vitamin D ___ UNIT PO ONCE A MONTH 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atenolol 100 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Calcitriol 0.25 mcg PO DAILY  
5.  Ferric Gluconate 125 mg IV 1X/WEEK (WE)  
6.  Nephro-Vite (B complex-vitamin C-folic acid) 0.8 mg oral 
DAILY  
7.  sevelamer CARBONATE 1600 mg PO TID W/MEALS  
8.  Vitamin D ___ UNIT PO ONCE A MONTH  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
LEFT FISTULA HEMATOMA
SMALL REDUCIBLE UMBILICAL HERNIA

SECONDARY DIAGNOSES
===================
HCV
HYPERTENSION
HYPERLIPIDEMIA 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

WHY WAS I IN THE HOSPIAL?
*You were admitted because of swelling over fistula

WHAT HAPPENED IN THE HOSPITAL?
*An ultrasound revealed the swelling to be a hematoma (blood 
collection)
*Transplant surgery saw you and determined that it was not safe 
or necessary to drain the collection at this time.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
*Keep your left arm elevated above the level of your heart 
whenever possible. This will help the swelling.
*Take Tylenol for pain. 
*Tell your doctor if you have worsening weakness or numbness in 
your hand
*Tell your doctor if you have vomiting or worsening abdominal 
pain, or if the hernia in your abdomen cannot be pushed back in 
anymore.

We wish you the best!
-Your care team at ___
 
Followup Instructions:
___